US03947456
The free base prepared from 3.7 g. of rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-6-methoxy-7-isoquinolinol hydrochloride is treated with 100 ml. of methanol and 5 ml. of 35% formaldehyde solution and, after standing at room temperature for 2 hours, hydrogenated with 5 g. of Raney nickel. After filtration, evaporation and acidification with ethanolic hydrogen chloride, a crystallized product is obtained. Recrystallization from methanol-ether gives rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-6-methoxy-2-methyl-7-isoquinolinol hydrochloride, m.p. 253°-254°C.

reactant | rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-6-methoxy-7-isoquinolinol hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1CNCC2=CC(=C(C=C12)OC)O
reactant | formaldehyde | C=O | CH2O
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-6-methoxy-2-methyl-7-isoquinolinol hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=C(C=C12)OC)O)C | InChI=1S/C17H17Cl2NO2.ClH/c1-20-8-11-6-16(21)17(22-2)7-12(11)13(9-20)10-3-4-14(18)15(19)5-10;/h3-7,13,21H,8-9H2,1-2H3;1H
